US03961055
2-Methoxy-6-dimethylsulphamoyl-10-(3-chloropropyl)phenothiazine (m.p. 124°-126°C.; 62.6 g.) is prepared by reacting 1-bromo-3-chloropropane (147 g.) with 2-methoxy-6-dimethylsulphamoylphenothiazine (84.4 g.) in the presence of powdered potassium hydroxide (25.8 g.) in methyl ethyl ketone (300 cc.).

reactant | 1-bromo-3-chloropropane | 147 g | BrCCCCl | C3H6BrCl
reactant | 2-methoxy-6-dimethylsulphamoylphenothiazine | 84.4 g | COC1=CC=2NC3=CC=CC(=C3SC2C=C1)S(N(C)C)(=O)=O | C15H16N2O3S2
reactant | potassium hydroxide | 25.8 g | [OH-].[K+]
solvent | methyl ethyl ketone | 300 cc | C(C)C(=O)C | C4H8O
product | 2-Methoxy-6-dimethylsulphamoyl-10-(3-chloropropyl)phenothiazine | 62.6 g | COC1=CC=2N(C3=CC=CC(=C3SC2C=C1)S(N(C)C)(=O)=O)CCCCl | C18H21ClN2O3S2
